US07410984B2
3-(4-{2-Oxo-3-[4-(3-o-tolyl-ureido)phenyl]-2H-pyridin-1-ylmethyl}phenyl)-propionic acid (E1)
3-(4-{2-Oxo-3-[4-(3-o-tolyl-ureido)phenyl)2H-pyridin-1-ylmethyl}phenyl)propionic acid ethyl ester (P9, 55 mg, 0.11 mmol) and lithium hydroxide (50 mg, 2.5 mmol) were stirred at 60° C. for 30 minutes in tetrahydrofuran (5 mL) and water (5 mL). The reaction mixture was acidified to pH 1 with 1 N aqueous hydrochloric acid and extracted with ethyl acetate. The organic layer was dried (anhydrous magnesium sulfate) and evaporated to dryness to afford the title compound as a solid.

reactant | 3-(4-{2-Oxo-3-[4-(3-o-tolyl-ureido)phenyl)2H-pyridin-1-ylmethyl}phenyl)propionic acid ethyl ester | 0.11 mmol, 55 mg | C(C)OC(CCC1=CC=C(C=C1)CN1C(C(=CC=C1)C1=CC=C(C=C1)NC(=O)NC1=C(C=CC=C1)C)=O)=O | C31H31N3O4
reactant | lithium hydroxide | 2.5 mmol, 50 mg | [OH-].[Li+]
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | water | 5 mL | O | H2O
product | 3-(4-{2-Oxo-3-[4-(3-o-tolyl-ureido)phenyl]-2H-pyridin-1-ylmethyl}phenyl)-propionic acid | O=C1N(C=CC=C1C1=CC=C(C=C1)NC(=O)NC1=C(C=CC=C1)C)CC1=CC=C(C=C1)CCC(=O)O | C29H27N3O4
